US05354866
A. trans-Ethyl 3-((Thiazol-2-yl)-amino)-2-propenoate
A solution of 2.3 g of 2-aminothiazole and 1.55 ml of ethyl propiolate in 10 ml of dichloromethane and 5 ml of dimethylformamide was stirred at ambient temperature for 3 days. The resulting mixture was filtered, and the filtrate was concentrated in vacuo. The residue was chromatographed on silica gel using first 20% then 40% ethyl acetate in hexane to provide 1.54 g (51%) of the desired compound. 1H NMR (CDCl3) δ1.30 (t, J=7 Hz, 3 H), 4.22 (q, J=7 Hz, 2 H), 5.79 (d, J=15 Hz, 1 H), 6.03 (d, J=5 Hz, 1 H), 6.68 (d, J=5 Hz, 1 H), 7.47 (br, 1 H), 8.17 (d, J=15 Hz, 1 H). Mass spectrum: (M+H)+ =199.

reactant | 2-aminothiazole | 2.3 g | NC=1SC=CN1 | C3H4N2S
reactant | ethyl propiolate | 1.55 ml | C(C#C)(=O)OCC | C5H6O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | trans-Ethyl 3-((Thiazol-2-yl)-amino)-2-propenoate | 1.54 g, 51% | S1C(=NC=C1)N/C=C/C(=O)OCC | C8H10N2O2S
